US06307047B1
2-(3,4-Difluorophenyl)-4-(2-cyclopent-2-enyl-1-ethoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 178, starting with 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 2-cyclopent-2-enyl-1-ethanol in place of 2-ethyl-1-hexanol (yield: 95 mg, 48%). mp 126-127° C. 1H NMR (300 MHz, DMSO-d6) δ 1.30 (m, 1H), 1.57 (sextet, J=7 Hz, 1H), 1.69 (sextet, J=7 Hz, 1H), 1.87 (m, 2H), 2.57 (m, 1H), 3.30 (s, 3H), 4.45 (m, 2H), 5.60 (m, 1H), 5.68 (m, 1H), 7.52 (m, 1H), 7.62 (m, 1H), 7.81 (m, 1H), 7.90 (d, J=9 Hz, 2H), 8.08 (d, J=9 Hz, 2H), 8.22 (s, 1H). MS (APCI+) m/z 473 (M+H)+; (APCI−) m/z 507 (M+Cl)−. Anal. calc. for C24H22F2N2O4S: C, 61.00; H, 4.69; N, 5.92. Found: C, 60.76; H, 4.65; N, 5.80.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | 2-cyclopent-2-enyl-1-ethanol | C1(C=CCC1)CCO | C7H12O
product | 2-(3,4-Difluorophenyl)-4-(2-cyclopent-2-enyl-1-ethoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC1C=CCC1)C1=CC=C(C=C1)S(=O)(=O)C | C24H22F2N2O4S
